US09402833B2
TFA (0.27 mL, 0.414 g, 3.63 mmol) was added to a solution of (4R)-tert-butyl 4-((tert-butyldimethylsilyl)oxy)-2-(2,5-difluorophenyl)pyrrolidine-1-carboxylate (0.5 g, 1.21 mmol) in DCM (10 mL) at 0° C. and stirring was continued at 28° C. for 2 hr. Reaction mixture was concentrated under reduced pressure to afford (4R)-4-((tert-butyldimethylsilyl)oxy)-2-(2,5-difluorophenyl)pyrrolidine hydrochloride (Int-57). MS (ESI) m/z 200(M-TBDMS+1, free base)

reactant | TFA | 3.63 mmol, 0.27 mL, 0.414 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (4R)-tert-butyl 4-((tert-butyldimethylsilyl)oxy)-2-(2,5-difluorophenyl)pyrrolidine-1-carboxylate | 1.21 mmol, 0.5 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC(N(C1)C(=O)OC(C)(C)C)C1=C(C=CC(=C1)F)F | C21H33F2NO3Si
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (4R)-4-((tert-butyldimethylsilyl)oxy)-2-(2,5-difluorophenyl)pyrrolidine hydrochloride | Cl.[Si](C)(C)(C(C)(C)C)O[C@@H]1CC(NC1)C1=C(C=CC(=C1)F)F | InChI=1S/C16H25F2NOSi.ClH/c1-16(2,3)21(4,5)20-12-9-15(19-10-12)13-8-11(17)6-7-14(13)18;/h6-8,12,15,19H,9-10H2,1-5H3;1H/t12-,15?;/m1./s1
